2145-01-08 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-7**] Events:
   - bronch showing thick, yellow secretions concerning for infection,
   started vanco and zosyn for HAP
   - cooling protocol initiated, plan for rewarming around noon tomorrow
   - renal team following, sent urine lytes and UA; pt remaining basically
   anuric overnight
   - CVPs in 8-10s, likely fluid down; to test kidneys, gave 500 cc fluid
   challenge.  UO improved slightly from about 20 cc/hr up to 80 cc/hr for
   short time
   - Around 2 am, after repositioning patients SBP dropped to 70s, came up
   to 80s with fluids but needed to start levophed; titrated up to 0.07
   and then stable overnight
 INVASIVE VENTILATION - START [**2145-1-7**] 10:55 AM
 MULTI LUMEN - START [**2145-1-7**] 12:48 PM
 BRONCHOSCOPY - At [**2145-1-7**] 04:23 PM
 ARTERIAL LINE - START [**2145-1-7**] 05:00 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-8**] 01:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2145-1-7**] 11:30 AM
   Fentanyl - [**2145-1-7**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-7**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-8**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 3.1
C (37.5
   Tcurrent: 3.1
C (37.5
   HR: 60 (59 - 156) bpm
   BP: 114/68(82) {85/51(62) - 114/77(82)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 97%
    CVP: 15 (7 - 18)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  2,497 mL
                                                                    855 mL
   PO:
   TF:
   IVF:
                                                                  2,497 mL
                                                                    855 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    154 mL
   Urine:
                                                                    410 mL
                                                                    154 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                    701 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.46/34/92.[**Numeric Identifier 641**]/25/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Eyes / Conjunctiva: PERRL, dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed,
   Patient not arousable to voice, no purposeful movements, withdraws to
   pain, non-verbal
   Labs / Radiology
   134 K/uL
   12.7 g/dL
   114 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.2 mEq/L
   85 mg/dL
   102 mEq/L
   138 mEq/L
   38.5 %
   26.5 K/uL
        [image002.jpg]
                             [**2145-1-7**]  11:21 AM
                             [**2145-1-7**]  01:24 PM
                             [**2145-1-7**]  03:41 PM
                             [**2145-1-7**]  06:56 PM
                             [**2145-1-7**]  09:04 PM
                             [**2145-1-7**]  10:13 PM
                             [**2145-1-7**]  11:06 PM
                             [**2145-1-7**]  11:47 PM
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
   WBC
   13.4
   26.5
   Hct
   39.6
   38.5
   Plt
   152
   134
   Cr
   2.1
   2.0
   1.9
   2.2
   TropT
   0.27
   0.24
   TCO2
   33
   27
   28
   27
   27
   25
   Glucose
   105
   92
   117
   114
   Other labs: PT / PTT / INR:17.2/54.3/1.6, CK / CKMB /
   Troponin-T:447/26/0.24, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:3.1
   mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 63 y/o M with Hepatitis C cirrhosis, a
   to ICU w/ PEA arrest [**12-21**] to mucous plug.
   .
   # Shock/PEA Arrest: Witness arrest [**12-21**] to mucous plug.
   - initially hemodynamically stable
   - overnight with repositioning had hypotension non-responsive to IVF
   boluses, levofed started.  Etiology of hypotension is cardiogenic shock
   s/p PEA vs. septic shock secondary to pneumonia
   - check central venous O2 today; if high, likely in septic shock, would
   continue levofed; if low, could consider adding extra inotropic pressor
   like dopamine
   - echo today if possible over arctic sun suit
   - continue goal MAP >65
   .
   # Respiratory/Ventilation: Assist control.  Low tidal volumes to avoid
   unneeded injury, with pH goal of above 7.25.
   - required increased FiO2 and PEEP overnight due to low oxygenation
   - likely has early ARDS, based on P:F ratio, CXR; continue ARDS net
   protocol with low Vt and high PEEPs
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, increasing leukocytosis today
   - on vanco/zosyn for HAP; add double coverage of GN with cipro after
   checking EKG for QT prolongation this morning
   - follow up cultures
   .
   # Neuro: With slowly resolving delerium prior to this event, and now
   with unclear hypoxic insult to brain. GCS of [**6-27**] on admission to ICU.
   Consider cooling protocol.  Head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure.
   - Continue cooling protocol, will rewarm around noon today
   - Low dose fentanyl/versed for sedation for now; failed trial of
   propofol overnight.
   - LP done earlier this admit that was negative gram stain/culture, no
   whites, negative HSV PCR.
   - EEG prelim report neg for seizure, f/u final read
   - head CT after warmed
   .
   .
   # Renal Failure: Unclear Etiology.  Renal following given concern for
   HRS.
   - likely in setting of hypoperfusion, still has some urine output
   - avoid fluid boluses if possible per renal recs
   - Send urine lytes, repeat Ua post-arrest
   - Appreciate renal rec's.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Continue IVF's
   and trend lactate.  Will need to increase minute ventilation for CO2.
   - resolved, likely in setting of post code hypoperfusion
   - continue to trend lactate, are normalizing
   .
   # Cardiac: Anticipate some elevation in CE's post-arrest, will trend.
   - CK and Trop trending downward,
   - echo today if possible to evaluate for function post PEA
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - Appreciate liver rec's, no tx at this time
   - pre-code mental status likely related to encephalopathy v. delerium
   .
   # Leukocytosis: Unclear etiology.  Negative tap for SBP on [**2145-1-5**].
   Urine growing E. Coli.  Pan-culture.
   - likely from pneumonia
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require OP ENT followup.
   .
   # Access: PIV, Central Line, arterial line.
   .
   # FEN: IVF, replete electrolytes, tube feeds after rewarming
   .
   # Prophylaxis: Subcutaneous heparin, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP
   .
   # Disposition: ICU for now.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-1-7**] 11:30 AM
   20 Gauge - [**2145-1-7**] 11:45 AM
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-08 09:17:00 Physician Attending Progress Note
Chief Complaint: respiratory/cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2145-1-7**] 10:55 AM
 MULTI LUMEN - START [**2145-1-7**] 12:48 PM
 BRONCHOSCOPY - At [**2145-1-7**] 04:23 PM
 ARTERIAL LINE - START [**2145-1-7**] 05:00 PM
   Hypothermia tolerated with paralysis but developed hypotension
   requiring norepinephrine
   Oliguria unresponsive to volume challenge
   Didn't tolerate propofol (hypotension)
   EEG formal read pending, but prelim negative for status epilepticus
   Required increased respiratory support (PEEP, FiO2)
   Patient unable to provide history: Sedated
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-8**] 01:57 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2145-1-7**] 11:30 AM
   Fentanyl - [**2145-1-7**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-7**] 10:02 PM
   Other medications:
   versed @ 2, fent @ 50, vit d, thiamine, folate, rifaxamin, synthroid,
   famotidine, chg, sqh [**Hospital1 **], zosyn, vanco, propofol, levophed @ .05
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-8**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 3.1
C (37.5
   Tcurrent: 3.1
C (37.5
   HR: 59 (59 - 156) bpm
   BP: 107/66(78) {85/51(62) - 114/77(82)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 97%
   CVP: 14 (7 - 18)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  2,497 mL
                                                                    932 mL
   PO:
   TF:
   IVF:
                                                                  2,497 mL
                                                                    932 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    186 mL
   Urine:
                                                                    410 mL
                                                                    186 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,087 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/34/92.[**Numeric Identifier 641**]/25/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: dysconjugate
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), limited by arctic sun
   Abdominal: Soft, protuberant; exam limited by arctic sun
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   12.7 g/dL
   134 K/uL
   114 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.2 mEq/L
   85 mg/dL
   102 mEq/L
   138 mEq/L
   38.5 %
   26.5 K/uL
        [image002.jpg]
                             [**2145-1-7**]  11:21 AM
                             [**2145-1-7**]  01:24 PM
                             [**2145-1-7**]  03:41 PM
                             [**2145-1-7**]  06:56 PM
                             [**2145-1-7**]  09:04 PM
                             [**2145-1-7**]  10:13 PM
                             [**2145-1-7**]  11:06 PM
                             [**2145-1-7**]  11:47 PM
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
   WBC
   13.4
   26.5
   Hct
   39.6
   38.5
   Plt
   152
   134
   Cr
   2.1
   2.0
   1.9
   2.2
   TropT
   0.27
   0.24
   TCO2
   33
   27
   28
   27
   27
   25
   Glucose
   105
   92
   117
   114
   Other labs: PT / PTT / INR:17.2/54.3/1.6, CK / CKMB /
   Troponin-T:447/26/0.24, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:3.1
   mg/dL, PO4:5.5 mg/dL
   Microbiology: BAL: oral flora
   Assessment and Plan
   63-year-old man with respiratory arrest
 cardiac arrest after a
   prolonged and complicated hospital course, now receiving therapeutic
   hypothermia.  Now will probable HAP (acquired on floor or at
   intubation) and hypotension requiring vasopressors.
   Post-arrest care
   Hemodynamic management as needed (currently normotense)
   Hypothermia per protocol
   Respiratory failure
          P:F ratio now <200; bilateral infiltrates.  Although may be
   cardiac, also reasonable to consider ARDS
          Ventilae per ARDSnet
   Shock
          [**Month (only) 11**] be cardiac or vasodilatory.  CVP argues against
   hypovolemia.
          Check pulse pressure variation
          Ask echo if they are technically able to do echo with arctic
   sun in place
   Acute renal failure
          Expect some ATN
          Intra-abdominal hypertension excluded by low bladder
   pressure
   Neurologic status
          Assess clinically after rewarming
          Will likely need brain imaging after rewarming
          Await EEG
          Appreciate neurology
s help
   Other issues as per ICU team note above.  Our team has d/w pt
s wife.
   ICU [**Name2 (NI) 232**]
   Nutrition: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2145-1-7**] 11:30 AM
   20 Gauge - [**2145-1-7**] 11:45 AM
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   5:30p
   Case discussed with neurology
 no prognostication feasible until after
   rewarming (which I agree with)..
   Met with family, including wife [**Name (NI) 117**], along with SW.  Discussed events
   of day and expected course over next 24
 72 hours
 that we will
   rewarm him then assess neurological exam and potentially ancillary
   tests.  All questions answered.
   Norepinephrine requirement is increasing.  Echo suggests hyperdynamic
   LVEF (though limited study).  CVP is decreasing.  Pattern suggest
   vasodilation or hypovolemia.  Will volume challenge.
   30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 906**], MD
   on:[**2145-1-8**] 17:45 ------

2145-01-09 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-8**] Events:
   - rewarmed per protocol
   - EEG -> Overall, the tracing indicates an extremely severe
   encephalopathy. If not due to sedating agents such as barbiturate or
   benzodiazepines, and if due to the cardiac arrest, this tracing offers
   a very poor prognosis
   - liver rec'd albumin for HRS
   - ECHO hyperdynamic
   - started TFs
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-8**] 08:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-9**] 02:06 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-8**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-9**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 66 (55 - 73) bpm
   BP: 147/60(80) {95/48(61) - 147/66(80)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (9 - 22)mmHg
   Mixed Venous O2% Sat: 94 - 94
                                Total In:
                                                                  4,422 mL
                                                                  1,331 mL
   PO:
                                TF:
                                112 mL
   IVF:
                                                                  4,222 mL
                                                                  1,119 mL
   Blood products:
                                                                    200 mL
                                                                    100 mL
   Total out:
                                                                    641 mL
                                                                    555 mL
   Urine:
                                                                    641 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,781 mL
                                                                    776 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/35/144/24/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Eyes / Conjunctiva: PERRL, dysconjugate gaze
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed,
   Patient not arousable to voice, no purposeful movements, withdraws to
   pain, non-verbal
   Labs / Radiology
   118 K/uL
   10.3 g/dL
   108 mg/dL
   2.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   91 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2145-1-7**]  06:56 PM
                             [**2145-1-7**]  09:04 PM
                             [**2145-1-7**]  10:13 PM
                             [**2145-1-7**]  11:06 PM
                             [**2145-1-7**]  11:47 PM
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
                             [**2145-1-8**]  05:46 PM
                             [**2145-1-9**]  03:23 AM
                             [**2145-1-9**]  03:38 AM
   WBC
   26.5
   16.3
   Hct
   38.5
   31.4
   Plt
   134
   118
   Cr
   1.9
   2.2
   2.5
   2.4
   TropT
   0.24
   TCO2
   27
   28
   27
   27
   25
   27
   Glucose
   117
   114
   103
   108
   Other labs: PT / PTT / INR:18.2/70.4/1.7, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:119/282, Alk Phos / T Bili:154/3.3,
   Amylase / Lipase:93/30, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:2.0 mmol/L, LDH:635 IU/L, Ca++:7.8
   mg/dL, Mg++:3.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis, a to ICU w/ PEA arrest
   [**12-21**] to mucous plug.
   .
   # Shock/PEA Arrest: Witness arrest [**12-21**] to mucous plug.
   - initially hemodynamically stable
   - overnight with repositioning had hypotension non-responsive to IVF
   boluses, levofed started.  Etiology of hypotension is cardiogenic shock
   s/p PEA vs. septic shock secondary to pneumonia
   - check central venous O2 today; if high, likely in septic shock, would
   continue levofed; if low, could consider adding extra inotropic pressor
   like dopamine
   - echo today if possible over arctic sun suit
   - continue goal MAP >65
   .
   # Respiratory/Ventilation: Assist control.  Low tidal volumes to avoid
   unneeded injury, with pH goal of above 7.25.
   - required increased FiO2 and PEEP overnight due to low oxygenation
   - likely has early ARDS, based on P:F ratio, CXR; continue ARDS net
   protocol with low Vt and high PEEPs
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, increasing leukocytosis today
   - on vanco/zosyn for HAP; add double coverage of GN with cipro after
   checking EKG for QT prolongation this morning
   - follow up cultures
   .
   # Neuro: With slowly resolving delerium prior to this event, and now
   with unclear hypoxic insult to brain. GCS of [**6-27**] on admission to ICU.
   Consider cooling protocol.  Head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure.
   - Continue cooling protocol, will rewarm around noon today
   - Low dose fentanyl/versed for sedation for now; failed trial of
   propofol overnight.
   - LP done earlier this admit that was negative gram stain/culture, no
   whites, negative HSV PCR.
   - EEG prelim report neg for seizure, f/u final read
   - head CT after warmed
   .
   .
   # Renal Failure: Unclear Etiology.  Renal following given concern for
   HRS.
   - likely in setting of hypoperfusion, still has some urine output
   - avoid fluid boluses if possible per renal recs
   - Send urine lytes, repeat Ua post-arrest
   - Appreciate renal rec's.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Continue IVF's
   and trend lactate.  Will need to increase minute ventilation for CO2.
   - resolved, likely in setting of post code hypoperfusion
   - continue to trend lactate, are normalizing
   .
   # Cardiac: Anticipate some elevation in CE's post-arrest, will trend.
   - CK and Trop trending downward,
   - echo today if possible to evaluate for function post PEA
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - Appreciate liver rec's, no tx at this time
   - pre-code mental status likely related to encephalopathy v. delerium
   .
   # Leukocytosis: Unclear etiology.  Negative tap for SBP on [**2145-1-5**].
   Urine growing E. Coli.  Pan-culture.
   - likely from pneumonia
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require OP ENT followup.
   .
   # Access: PIV, Central Line, arterial line.
   .
   # FEN: IVF, replete electrolytes, tube feeds after rewarming
   .
   # Prophylaxis: Subcutaneous heparin, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-9**] 12:26 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-1-7**] 11:45 AM
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-09 11:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 PEA arrest 2 days ago
   was in hospital for cervical cord compression - decompressed [**12-11**]
   post-op encephalopathy - improving
   worsening renal insufficiency
   arrest on the floor
   24 Hour Events:
                                       History obtained from HO
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-8**] 08:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-9**] 10:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-8**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   warmed yesterday
   EEG severe encephalopathy
   receiving albumin for HRS
   opening eyes
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-9**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 66 (55 - 73) bpm
   BP: 127/55(69) {95/48(61) - 147/60(80)} mmHg
   RR: 17 (17 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (9 - 22)mmHg
   Mixed Venous O2% Sat: 94 - 94
                               Total In:
                                                                  4,422 mL
                                                                  1,745 mL
   PO:
                               TF:
                               190 mL
   IVF:
                                                                  4,222 mL
                                                                  1,355 mL
   Blood products:
                                                                    200 mL
                                                                    100 mL
   Total out:
                                                                    641 mL
                                                                    865 mL
   Urine:
                                                                    641 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,781 mL
                                                                    880 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 183.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.48/35/121/24/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   118 K/uL
   108 mg/dL
   2.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   91 mg/dL
   104 mEq/L
   137 mEq/L
   31.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2145-1-7**]  09:04 PM
                             [**2145-1-7**]  10:13 PM
                             [**2145-1-7**]  11:06 PM
                             [**2145-1-7**]  11:47 PM
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
                             [**2145-1-8**]  05:46 PM
                             [**2145-1-9**]  03:23 AM
                             [**2145-1-9**]  03:38 AM
                             [**2145-1-9**]  10:22 AM
   WBC
   26.5
   16.3
   Hct
   38.5
   31.4
   Plt
   134
   118
   Cr
   1.9
   2.2
   2.5
   2.4
   TropT
   0.24
   TCO2
   28
   27
   27
   25
   27
   27
   Glucose
   117
   114
   103
   108
   Other labs: PT / PTT / INR:18.2/70.4/1.7, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:119/282, Alk Phos / T Bili:154/3.3,
   Amylase / Lipase:93/30, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:1.3 mmol/L, LDH:635 IU/L, Ca++:7.8
   mg/dL, Mg++:3.2 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: 7.48/35/121
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM) - now opening eyes, continue
   lactulose,? anoxic brain injury, if no further improvement - will image
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - stable creatinine,
   receiving albuimin and IVF prn
 HYPOTENSION (NOT SHOCK) - received fluid, wean levophed as tolerated
 CARDIAC ARREST - thought to be due to mucuc plug/resp arrest, follow
   rhythm
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - continue current settings
   until he awakens
   cirrhosis - continue lactulose, receiving albumin
   effusion, infiltrate - being covered for pna with vanco and zosyn
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-9**] 12:26 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-1-7**] 11:45 AM
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2145-01-10 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-9**] Events:
   - weaned levophed
   - off sedation, responding to name
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-9**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (66 - 79) bpm
   BP: 142/57(74) {116/41(58) - 149/61(79)} mmHg
   RR: 15 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (6 - 16)mmHg
   Total In:
                                                                  3,236 mL
                                                                    646 mL
   PO:
   TF:
                                                                    576 mL
                                                                    218 mL
   IVF:
                                                                  2,170 mL
                                                                    318 mL
   Blood products:
                                                                    300 mL
                                                                    110 mL
   Total out:
                                                                  1,680 mL
                                                                    720 mL
   Urine:
                                                                  1,680 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.47/40/121/28/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   73 K/uL
   8.9 g/dL
   108 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.3 mEq/L
   92 mg/dL
   106 mEq/L
   140 mEq/L
   26.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
                             [**2145-1-8**]  05:46 PM
                             [**2145-1-9**]  03:23 AM
                             [**2145-1-9**]  03:38 AM
                             [**2145-1-9**]  10:22 AM
                             [**2145-1-9**]  01:38 PM
                             [**2145-1-10**]  02:25 AM
                             [**2145-1-10**]  03:39 AM
                             [**2145-1-10**]  04:55 AM
   WBC
   26.5
   16.3
   6.1
   6.1
   Hct
   38.5
   31.4
   24.9
   26.4
   Plt
   134
   118
   63
   73
   Cr
   2.2
   2.5
   2.4
   2.1
   TropT
   0.24
   TCO2
   25
   27
   27
   28
   30
   Glucose
   114
   103
   108
   108
   Other labs: PT / PTT / INR:18.5/67.4/1.7, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:76/202, Alk Phos / T Bili:134/1.5,
   Amylase / Lipase:93/30, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:1.0 mmol/L, LDH:635 IU/L, Ca++:8.1
   mg/dL, Mg++:3.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis hepatorenal syndrome, s/p
   PEA arrest, body cooling and rewarming, concern for PNA covering with
   Vanc/Zosyn.
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but overnight had hypotension non-responsive to IVF boluses, levofed
   started, currently off. Echo showed no evidence of cardiogenic shock.
   s/p cooling and rewarming.
   - continue goal MAP >65
   - stable now after off pressors yesterday
   .
   # Respiratory/Ventilation: Assist control.  Low tidal volumes to avoid
   unneeded injury, with pH goal of above 7.25.
   - required increased FiO2 and PEEP overnight due to low oxygenation,
   will try to wean as tolerated
   - likely has early ARDS, based on P:F ratio, CXR; continue ARDS net
   protocol with low Vt and high PEEPs
   - seems to have improved, cont tx with abx
   - extubate today
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, leukocytosis starting to resolve
   - on vanco/zosyn for HAP
   - follow up cultures
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation
   - off sedation, waking up, mouthing words
   - LP done earlier this admit that was negative gram stain/culture, no
   whites, negative HSV PCR.
   - would not cooperate with CT at this time, will hold off for now
   . .
   # Renal Failure: Unclear Etiology.  Renal following given concern for
   HRS. given 2 days of albumin per hepatology recs.
   - likely in setting of hypoperfusion v. HRS, starting to improve,
   making good urine output
   - f/u renal rec's.
   - giving mitodrine and octreotide and albumin today
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Continue IVF's
   and trend lactate.  Will need to increase minute ventilation for CO2.
   - resolved, likely in setting of post code hypoperfusion
   - lactates normalized
   .
   # Cardiac: Anticipate some elevation in CE's post-arrest, will trend.
   Echo hyperdynamic, no cardiogenic shock.
   - CK and Trop trending downward,
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - will follow s/p extubation, continue lactulose, unclear etiology at
   this time
   .
   # Leukocytosis: Unclear etiology.  Negative tap for SBP on [**2145-1-5**].
   Urine growing E. Coli.  Pan-culture.
   - likely from pneumonia
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require OP ENT followup.
   .
   # Access: PIV, Central Line, d/c
ed art line today
   .
   # FEN: IVF, replete electrolytes, tube feeds resuming [**1-9**]
   .
   # Prophylaxis: holding HSQ since elevated PTT, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-9**] 12:26 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-1-7**] 11:45 AM
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-10 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   more awake this morning
   changed to PSV
   pressors weaned
   24 Hour Events:
                                    Patient unable to provide history: intubated
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-1-7**] 04:00 PM
   Vancomycin - [**2145-1-9**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-10**] 09:20 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-1-10**] 08:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-10**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 79 (67 - 81) bpm
   BP: 158/60(79) {116/41(58) - 158/61(82)} mmHg
   RR: 14 (12 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 14 (6 - 19)mmHg
   Total In:
                                                                  3,236 mL
                                                                  1,207 mL
   PO:
   TF:
                                                                    576 mL
                                                                    335 mL
   IVF:
                                                                  2,170 mL
                                                                    488 mL
   Blood products:
                                                                    300 mL
                                                                    200 mL
   Total out:
                                                                  1,680 mL
                                                                  1,185 mL
   Urine:
                                                                  1,680 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 23
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.47/40/121/28/5
   Ve: 12 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   73 K/uL
   108 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.3 mEq/L
   92 mg/dL
   106 mEq/L
   140 mEq/L
   26.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2145-1-8**]  03:38 AM
                             [**2145-1-8**]  04:01 AM
                             [**2145-1-8**]  05:46 PM
                             [**2145-1-9**]  03:23 AM
                             [**2145-1-9**]  03:38 AM
                             [**2145-1-9**]  10:22 AM
                             [**2145-1-9**]  01:38 PM
                             [**2145-1-10**]  02:25 AM
                             [**2145-1-10**]  03:39 AM
                             [**2145-1-10**]  04:55 AM
   WBC
   26.5
   16.3
   6.1
   6.1
   Hct
   38.5
   31.4
   24.9
   26.4
   Plt
   134
   118
   63
   73
   Cr
   2.2
   2.5
   2.4
   2.1
   TropT
   0.24
   TCO2
   25
   27
   27
   28
   30
   Glucose
   114
   103
   108
   108
   Other labs: PT / PTT / INR:18.5/67.4/1.7, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:76/202, Alk Phos / T Bili:134/1.5,
   Amylase / Lipase:93/30, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:1.0 mmol/L, LDH:635 IU/L, Ca++:8.1
   mg/dL, Mg++:3.3 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR stable bilateral infiltrates
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM) - now following commands,
   continue lactulose,? anoxic brain injury
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - creatinine
   improving, receiving albuimin and IVF prn, renal requesting midodrine
   and octreotide - will start
 HYPOTENSION, SHOCK - received fluid, levophed off, follow BP
 CARDIAC ARREST - thought to be due to mucus plug/resp arrest, follow
   rhythm
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]) - RSBI 24 on PSV 5/5, will
   work towards extubation
   hospital acquired pneumonia - CXR stable, complete 10 days of abx
   cirrhosis - continue lactulose, receiving albumin
   anemia - has fallen over past few days though now stable, follow,
   guaiac
   thrombocytopenia - also stable
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-9**] 12:26 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-7**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2145-01-11 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated in the morning
   - mental status at level he was pre-code
   - low dose ativan for aggitation
   - started mitodrine, octreotide, albumin for HRS
   - art line pulled
   - had acute respiratory distress around 4 am with desat to 80s,
   required intense suctioning of bloody secretions, gas 7.38/51/108; did
   slightly better with frequent nebs
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-10**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-11**] 12:26 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-1-10**] 08:01 AM
   Lorazepam (Ativan) - [**2145-1-11**] 04:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-11**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 86 (75 - 86) bpm
   BP: 111/60(71) {102/53(65) - 130/80(89)} mmHg
   RR: 18 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (5 - 19)mmHg
   Total In:
                                                                  2,126 mL
                                                                    237 mL
   PO:
   TF:
                                                                    350 mL
   IVF:
                                                                  1,061 mL
                                                                    237 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  3,885 mL
                                                                    680 mL
   Urine:
                                                                  3,185 mL
                                                                    680 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                 -1,759 mL
                                                                   -443 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 665 (665 - 665) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.38/51/108/31/4
   Ve: 12 L/min
   PaO2 / FiO2: 108
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   52 K/uL
   9.5 g/dL
   100 mg/dL
   1.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   59 mg/dL
   112 mEq/L
   148 mEq/L
   29.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2145-1-8**]  05:46 PM
                             [**2145-1-9**]  03:23 AM
                             [**2145-1-9**]  03:38 AM
                             [**2145-1-9**]  10:22 AM
                             [**2145-1-9**]  01:38 PM
                             [**2145-1-10**]  02:25 AM
                             [**2145-1-10**]  03:39 AM
                             [**2145-1-10**]  04:55 AM
                             [**2145-1-10**]  12:53 PM
                             [**2145-1-11**]  04:02 AM
   WBC
   16.3
   6.1
   6.1
   5.6
   Hct
   31.4
   24.9
   26.4
   26.3
   29.6
   Plt
   118
   63
   73
   52
   Cr
   2.5
   2.4
   2.1
   1.4
   TCO2
   27
   27
   28
   30
   31
   Glucose
   103
   108
   108
   100
   Other labs: PT / PTT / INR:18.5/50.8/1.7, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:79/200, Alk Phos / T Bili:105/2.9,
   Amylase / Lipase:93/30, Differential-Neuts:74.5 %, Lymph:14.1 %,
   Mono:8.1 %, Eos:2.9 %, Lactic Acid:1.8 mmol/L, LDH:418 IU/L, Ca++:8.7
   mg/dL, Mg++:2.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis hepatorenal syndrome, s/p
   PEA arrest, body cooling and rewarming, concern for PNA covering with
   Vanc/Zosyn.
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming.
   - continue goal MAP >65
   - stable now after off pressors
   .
   # Respiratory/Ventilation: Assist control.  Low tidal volumes to avoid
   unneeded injury, with pH goal of above 7.25.  Acute desats overnight
   [**12-21**] agitation -> improved with sedation and nebs.  Will likely continue
   to aspirate [**12-21**] mental status, may need to re-intubate depending on
   respiratory status.
   - extubated yesterday
   - cont 5-day total course of ABX
   - cont local care
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, leukocytosis starting to resolve
   - on vanco/zosyn for total 5-day course
   - follow up cultures, NGTD
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  Back to pre-code
   MS per wife.
   - off sedation, waking up, mouthing words
   - LP done earlier that was negative gram stain/culture, no whites,
   negative HSV PCR
   - would not cooperate with CT at this time, will hold off for now
   - cont lactulose
   .
   # Renal Failure: Unclear Etiology.  Renal following given concern for
   HRS. given 2 days of albumin per hepatology recs.
   - likely in setting of hypoperfusion v. HRS, starting to improve,
   making good urine output
   - f/u renal rec's.
   - giving mitodrine and octreotide and albumin
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Free water deficit ~ 2-3L.
   - correct slowly today with IVF, 150cc/hr
   - check lytes Q6H
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Continue IVF's
   and trend lactate.  Will need to increase minute ventilation for CO2.
   - resolved, likely in setting of post code hypoperfusion
   - lactates normalized
   .
   # Cardiac: Anticipate some elevation in CE's post-arrest, will trend.
   Echo hyperdynamic, no cardiogenic shock.
   - CK and Trop trending downward,
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - will follow s/p extubation, continue lactulose, unclear etiology at
   this time
   - will f/u with liver re: long-term prognosis
   .
   # Leukocytosis: Unclear etiology.  Negative tap for SBP on [**2145-1-5**].
   Urine growing E. Coli.  Pan-culture.
   - likely from pneumonia
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require OP ENT followup.
   .
   # Access: PIV, Central Line, d/c
ed art line today
   .
   # FEN: IVF, replete electrolytes, tube feeds resuming [**1-9**]
   .
   # Prophylaxis: holding HSQ since elevated PTT, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will need to readdress long-term goals
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-12 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - re-intubated [**12-21**] resp. distress and inability to protect airway
   - peri-intubation had episode of AF with RVR and aberrancy, responded
   to Ca2+ (?increased K+ [**12-21**] use of sux for intubation)
   - replaced a-line
   - decreased albumin to 50mg daily
   - Head CT with no focal findings -> recommend MRI at later date
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-11**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-12**] 06:27 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-1-11**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-12**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 59 (57 - 98) bpm
   BP: 128/58(74) {111/50(66) - 212/84(126)} mmHg
   RR: 18 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 11 (11 - 17)mmHg
   Total In:
                                                                  3,092 mL
                                                                  1,043 mL
   PO:
   TF:
                                                                     69 mL
                                                                    191 mL
   IVF:
                                                                  2,663 mL
                                                                    781 mL
   Blood products:
                                                                    200 mL
                                                                     12 mL
   Total out:
                                                                  2,660 mL
                                                                    530 mL
   Urine:
                                                                  1,960 mL
                                                                    530 mL
   NG:
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                    432 mL
                                                                    513 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/42/109/32/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   48 K/uL
   8.5 g/dL
   133 mg/dL
   1.0 mg/dL
   32 mEq/L
   3.6 mEq/L
   43 mg/dL
   110 mEq/L
   145 mEq/L
   26.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2145-1-11**]  04:02 AM
                             [**2145-1-11**]  11:01 AM
                             [**2145-1-11**]  11:21 AM
                             [**2145-1-11**]  01:03 PM
                             [**2145-1-11**]  05:56 PM
                             [**2145-1-11**]  06:13 PM
                             [**2145-1-11**]  07:31 PM
                             [**2145-1-11**]  09:57 PM
                             [**2145-1-12**]  01:37 AM
                             [**2145-1-12**]  04:43 AM
   WBC
   5.6
   7.7
   5.8
   Hct
   29.6
   30.0
   26.1
   Plt
   52
   61
   48
   Cr
   1.4
   1.3
   1.1
   1.1
   1.0
   1.0
   TCO2
   31
   29
   29
   30
   29
   Glucose
   100
   136
   167
   170
   176
   133
   Other labs: PT / PTT / INR:19.1/51.4/1.8, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:60/144, Alk Phos / T Bili:72/3.4,
   Amylase / Lipase:93/30, Differential-Neuts:84.1 %, Lymph:10.6 %,
   Mono:2.3 %, Eos:2.7 %, Lactic Acid:2.2 mmol/L, LDH:303 IU/L, Ca++:8.8
   mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis hepatorenal syndrome, s/p
   PEA arrest, body cooling and rewarming, concern for PNA covering with
   Vanc/Zosyn.
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming.
   - continue goal MAP >65
   - stable now after off pressors
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change.
   - pt will likely need trach if long-term care is the goal
   - cont 5-day total course of vanc/zosyn
   - cont local care
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, leukocytosis starting to resolve
   - on vanco/zosyn for total 5-day course
   - follow up cultures, NGTD
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  Back to pre-code
   MS per wife.
   - off sedation, still not following commands or making purposeful
   movements
   - LP done earlier that was negative gram stain/culture, no whites,
   negative HSV PCR
   - CT scan did not show any focal lesions
   - likely will need MRI in the future but can not tolerate now [**12-21**]
   mental status/respiratory status
   - increase lactulose to TID, continue rifaximin
   .
   # Renal Failure: Unclear etiology, likely combination of ATN in the
   setting of code and HRS.  Renal following given concern for HRS. On
   albumin, mitodrine and octreotide per liver/renal.
   - urine output improving
   - giving mitodrine, octreotide and albumin
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], rree water deficit ~ 2-3L.
   - [**Hospital1 **] lytes
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock.
   - CK and Trop trended down
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   ..
   # Gram negative bacteremia: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin.
   - will continue surveillance blood cxs
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Access: PIV, Central Line
   .
   # FEN: IVF, replete electrolytes, tube feeds
   .
   # Prophylaxis: holding HSQ since elevated PTT, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals today
   re: long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-12**] 06:16 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-13 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-12**] Events:
   patient on max dose bolus fent/versed sedation and agitated, moving
   constantly but no purposeful movements, hypertensive, and fighting
   vent, placed on propofol drip sedation
   off rifaximin while on vanc/zosyn
   increased free water boluses through feeding tube
   IP will do trach at bedside on thursday
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-11**] 08:16 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-12**] 06:27 AM
   Infusions:
   Propofol - 6 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-12**] 08:00 AM
   Fentanyl - [**2145-1-12**] 11:30 PM
   Midazolam (Versed) - [**2145-1-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-13**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 60 (57 - 82) bpm
   BP: 130/59(79) {109/52(68) - 156/69(91)} mmHg
   RR: 18 (7 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 15 (8 - 18)mmHg
   Total In:
                                                                  2,510 mL
                                                                    939 mL
   PO:
   TF:
                                                                    868 mL
                                                                    369 mL
   IVF:
                                                                    802 mL
                                                                     70 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  1,280 mL
                                                                    580 mL
   Urine:
                                                                  1,280 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,230 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.52/36/164/29/6
   Ve: 9.3 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   50 K/uL
   8.2 g/dL
   117 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   31 mg/dL
   114 mEq/L
   146 mEq/L
   24.1 %
   4.6 K/uL
        [image002.jpg]
                             [**2145-1-11**]  05:56 PM
                             [**2145-1-11**]  06:13 PM
                             [**2145-1-11**]  07:31 PM
                             [**2145-1-11**]  09:57 PM
                             [**2145-1-12**]  01:37 AM
                             [**2145-1-12**]  04:43 AM
                             [**2145-1-12**]  03:24 PM
                             [**2145-1-13**]  02:42 AM
                             [**2145-1-13**]  03:30 AM
                             [**2145-1-13**]  06:33 AM
   WBC
   5.8
   4.9
   4.6
   Hct
   26.1
   25.3
   24.1
   Plt
   48
   47
   50
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   0.8
   TCO2
   30
   29
   30
   30
   Glucose
   167
   170
   176
   133
   125
   117
   Other labs: PT / PTT / INR:20.2/57.1/1.9, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:53/134, Alk Phos / T Bili:78/3.0,
   Amylase / Lipase:93/30, Differential-Neuts:84.1 %, Lymph:10.6 %,
   Mono:2.3 %, Eos:2.7 %, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:298 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis, s/p PEA arrest, body
   cooling and rewarming, concern for PNA covering with Vanc/Zosyn.
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR.
   - cont 5-day total course of vanc/zosyn
   - giving Lasix 40mg IV with goal -1L (will need to give addition dose
   in setting of getting 1u PRBC and 2u FFP)
   .
   # Pneumonia
 on CXR has RLL infiltrate and bronch with thick yellow
   secretions, leukocytosis starting to resolve
   - on vanco/zosyn for total 5-day course
   - follow up cultures
   .
   # Gram negative bacteremia: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin.
   - will continue surveillance blood cxs
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife.
   - patient is following commands, on propofol sedation
   - CT scan did not show any focal lesions
   - likely will need MRI in the future but can not tolerate now [**12-21**]
   mental status/respiratory status
   - increase lactulose
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: NPO [**1-13**] for trach in OR, resume TF
   .
   # Prophylaxis: holding HSQ since elevated PTT, famotidine
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals today
   re: long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-1-13**] 04:58 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-14 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2145-1-13**] 10:20 PM
 OR RECEIVED - At [**2145-1-14**] 12:30 AM
   trach place, 8 portex, pt received 2 units ffp in OR
   [**1-13**] Events:
   - around 10 pm, got trach - had some mild bleeding around the trach
   site (150cc), but otherwise without complications
   - want to keep INR low over next few days, FFP PRN
   - mildly hypernatremic, getting D5W but held during procedure, will
   finish IVFs and start TFs with free water flushes
   - continues to be on propofol sedation
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-13**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-14**] 06:36 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-13**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-14**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.7
C (96.3
   HR: 67 (59 - 81) bpm
   BP: 142/65(86) {106/48(63) - 165/68(96)} mmHg
   RR: 11 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 8 (6 - 16)mmHg
   Total In:
                                                                  3,425 mL
                                                                  1,360 mL
   PO:
   TF:
                                                                    467 mL
                                                                    180 mL
   IVF:
                                                                  1,486 mL
                                                                  1,180 mL
   Blood products:
                                                                    621 mL
   Total out:
                                                                  3,890 mL
                                                                    710 mL
   Urine:
                                                                  3,890 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                    650 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/40/94.[**Numeric Identifier 433**]/30/4
   Ve: 8.6 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), has a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   44 K/uL
   9.2 g/dL
   112 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   23 mg/dL
   111 mEq/L
   147 mEq/L
   27.8 %
   4.1 K/uL
        [image002.jpg]
                             [**2145-1-12**]  04:43 AM
                             [**2145-1-12**]  03:24 PM
                             [**2145-1-13**]  02:42 AM
                             [**2145-1-13**]  03:30 AM
                             [**2145-1-13**]  06:33 AM
                             [**2145-1-13**]  03:37 PM
                             [**2145-1-13**]  04:02 PM
                             [**2145-1-13**]  09:03 PM
                             [**2145-1-14**]  03:15 AM
                             [**2145-1-14**]  03:29 AM
   WBC
   5.8
   4.9
   4.6
   4.1
   4.1
   Hct
   26.1
   25.3
   24.1
   28.6
   27.8
   Plt
   48
   47
   50
   46
   44
   Cr
   1.0
   1.0
   0.8
   0.7
   0.8
   0.6
   TCO2
   30
   30
   32
   30
   Glucose
   133
   125
   117
   95
   120
   112
   Other labs: PT / PTT / INR:17.2/48.4/1.6, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:53/127, Alk Phos / T Bili:73/3.7,
   Amylase / Lipase:93/30, Differential-Neuts:84.1 %, Lymph:10.6 %,
   Mono:2.3 %, Eos:2.7 %, Lactic Acid:1.6 mmol/L, Albumin:3.3 g/dL,
   LDH:298 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis, s/p PEA arrest, body
   cooling and rewarming, with Fusobacterium sepsis covering with Zosyn
   until [**2145-1-21**].
   .
   # bleeding from trach site- lost 150cc intraop. surgery following,
   continue sedation to prevent movement, giving 2u platelets, given 1u
   FFP
   -          will not give additional FFP since INR 1.6
   -          ENT consult to eval for concern of posterior pharynx, giving
   affirm, lidocaine spray
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empire HAP for 5day with vanc/zosyn starting
   [**1-7**]. Stopped vanc [**1-14**], continuing zosyn until sensitivities of
   fusobacterium.
   - giving Lasix 40mg IV with goal -1L
   .
   # Fusobacterium sepsis: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**]. Covering with zosyn until
   sensitivies obtained.
   - surveillance blood cxs NTD
   .
   # thrombocytopenia
 [**1-1**] platlets 171, now 44. Switched from H2 to
   PPI. Considering HIT vs. splenic sequestration
   -          obtaining smear
   -
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.
   - patient is following commands, on propofol sedation
   - likely will need MRI in the future but can not tolerate now [**12-21**]
   mental status/respiratory status
   - increase lactulose
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   - switching antibiotics to be made with D5W
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: NPO [**1-13**] for trach in OR, resume TF
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals today
   re: long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-15 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-14**] Events:
   - spoke to ID, fusobacterium is pan-sensitive and will give IV
   penicillin -> d/c zosyn
   - ENT eval for bleeding source -> no pharyngeal source
   - peripheral smear showed no evidence of DIC
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Penicillin G potassium - [**2145-1-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-14**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 78 (63 - 85) bpm
   BP: 136/62(84) {125/57(76) - 161/81(109)} mmHg
   RR: 8 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 9 (6 - 12)mmHg
   Total In:
                                                                  4,647 mL
                                                                  1,068 mL
   PO:
   TF:
                                                                    637 mL
                                                                    280 mL
   IVF:
                                                                  2,346 mL
                                                                    198 mL
   Blood products:
                                                                    574 mL
   Total out:
                                                                  6,290 mL
                                                                  1,020 mL
   Urine:
                                                                  5,990 mL
                                                                  1,020 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,643 mL
                                                                     48 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 580 (361 - 651) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/45/86/31/8
   Ve: 8.1 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), has a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   55 K/uL
   9.6 g/dL
   114 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.9 mEq/L
   18 mg/dL
   110 mEq/L
   146 mEq/L
   28.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2145-1-14**]  03:15 AM
                             [**2145-1-14**]  03:29 AM
                             [**2145-1-14**]  08:58 AM
                             [**2145-1-14**]  01:09 PM
                             [**2145-1-14**]  01:26 PM
                             [**2145-1-14**]  03:23 PM
                             [**2145-1-14**]  09:24 PM
                             [**2145-1-14**]  10:04 PM
                             [**2145-1-15**]  03:29 AM
                             [**2145-1-15**]  03:46 AM
   WBC
   4.1
   4.6
   4.8
   5.0
   5.5
   Hct
   27.8
   27.0
   27.0
   28.7
   28.4
   Plt
   44
   46
   60
   59
   55
   Cr
   0.6
   0.7
   0.7
   0.7
   TCO2
   30
   32
   34
   34
   Glucose
   112
   115
   122
   114
   Other labs: PT / PTT / INR:16.6/46.5/1.5, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:58/126, Alk Phos / T Bili:95/2.8,
   Amylase / Lipase:93/30, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:298 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   This is a 63 y/o M with Hepatitis C cirrhosis, s/p PEA arrest, body
   cooling and rewarming, with Fusobacterium sepsis covering with IV Pen G
   until [**2145-1-21**].
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - will consider bronch to eval for source of bleed from trach site,
   continues to have red congealed blood oozing from site
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empire HAP for 5day with vanc/zosyn starting
   [**1-7**]. Stopped vanc [**1-14**], continuing zosyn until sensitivities of
   fusobacterium.
   - giving Lasix 40mg IV with goal -2L
   .
   # Fusobacterium sepsis: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**]. Covering with zosyn until
   sensitivies obtained.
   - surveillance blood cxs NTD
   .
   # thrombocytopenia
 [**1-1**] platlets 171, now 44. Switched from H2 to
   PPI. Considering HIT vs. splenic sequestration
   -          obtaining smear
   -
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.
   - patient is following commands, off propofol sedation, psych saw
   patient on [**1-15**] and felt that the patient was very unlikely to have had
   NMS and recommended seroquel to be used for agitation.
   - likely will need MRI in the future but can not tolerate now [**12-21**]
   mental status/respiratory status
   - increase lactulose
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   - switching antibiotics to be made with D5W
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: TF running at goal, 60cc/hr
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2145-1-15**] 12:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-16 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-15**] Events:
   was able to lighten propofol sedation
   psych c/s done and did not think that it was likely that he had NMS
   from haldol but still recommend giving only seroquel
   i/o negative 2L
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-14**] 06:36 AM
   Vancomycin - [**2145-1-14**] 08:00 AM
   Penicillin G potassium - [**2145-1-16**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-15**] 08:04 AM
   Furosemide (Lasix) - [**2145-1-15**] 12:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-16**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 80 (80 - 114) bpm
   BP: 151/67(91) {128/49(68) - 191/81(113)} mmHg
   RR: 14 (9 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 18 (7 - 21)mmHg
   Total In:
                                                                  4,016 mL
                                                                  1,465 mL
   PO:
   TF:
                                                                  1,268 mL
                                                                    427 mL
   IVF:
                                                                    549 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  5,960 mL
                                                                    760 mL
   Urine:
                                                                  4,960 mL
                                                                    760 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -1,944 mL
                                                                    705 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (402 - 860) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.47/45/106/32/7
   Ve: 16.3 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), has a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   51 K/uL
   8.9 g/dL
   114 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   16 mg/dL
   110 mEq/L
   147 mEq/L
   26.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2145-1-14**]  01:26 PM
                             [**2145-1-14**]  03:23 PM
                             [**2145-1-14**]  09:24 PM
                             [**2145-1-14**]  10:04 PM
                             [**2145-1-15**]  03:29 AM
                             [**2145-1-15**]  03:46 AM
                             [**2145-1-15**]  01:02 PM
                             [**2145-1-15**]  01:03 PM
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
   WBC
   5.0
   5.5
   5.8
   5.7
   Hct
   28.7
   28.4
   27.7
   26.3
   Plt
   59
   55
   59
   51
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   32
   34
   34
   34
   Glucose
   115
   122
   114
   110
   114
   Other labs: PT / PTT / INR:17.0/47.3/1.5, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:59/138, Alk Phos / T Bili:120/2.4,
   Amylase / Lipase:93/30, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:398 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   This is a 63 y/o M who has continued AMS to point where not
   communicating at all; with hx Hepatitis C cirrhosis, s/p PEA arrest,
   body cooling and rewarming, with Fusobacterium sepsis covering with IV
   Pen G until [**2145-1-21**].
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.
   - patient is following commands, off propofol sedation, psych saw
   patient on [**1-15**] and felt that the patient was very unlikely to have had
   NMS and recommended seroquel to be used for agitation.
   - starting seroquel today
   - plan for MRI today
   - continue max dose of lactulose and rifaximin
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - bleeding has improved
   - ENT found small bite on back of tongue, but no evidence of posterior
   pharynx bleed
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empire HAP for 5day with vanc/zosyn starting
   [**1-7**]. Stopped vanc [**1-14**], continuing zosyn until sensitivities of
   fusobacterium.
   - giving Lasix 40mg IV with goal -2L
   - tolerating trach collar today very well
   .
   # Fusobacterium sepsis: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**]. Covered with zosyn until
   sensitivies obtained.
   - surveillance blood cxs NTD
   - complete course of PCN until [**1-21**]
   .
   # thrombocytopenia
 [**1-1**] platlets 171, now 44. Switched from H2 to
   PPI. Considering HIT vs. splenic sequestration
   - obtaining smear
   - plts starting to improve slightly after switch
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - renal function stable
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   - switching antibiotics to be made with D5W
   - cont free water flushes q3 hr through G tube
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: TF running at goal, 60cc/hr
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2145-1-16**] 03:10 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-16 11:57:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with hep C cirrhosis, with samll HCC, admitted for falls, had
   cervical laminextomy and never recovered MS.  had PEA arrest one week
   ago due to mucous plug.  Intubated and failured extubation once.   Has
   had episodic agitation, required uping of propofol.  Psych rec. giving
   seroquel instead of haldol with ? of NMS previously.
   24 Hour Events:
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-14**] 06:36 AM
   Vancomycin - [**2145-1-14**] 08:00 AM
   Penicillin G potassium - [**2145-1-16**] 04:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-15**] 12:54 PM
   Other medications:
   protonix
   folate
   thiamine
   levoxyl
   pen G
   lactulose
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are [**Year (4 digits) 1178**] from Admission except where noted
   above and below
   Review of systems is [**Year (4 digits) 1178**] from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Psychiatric / Sleep: No(t) Delirious, unresponsive
   Flowsheet Data as of  [**2145-1-16**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 86 (80 - 114) bpm
   BP: 163/66(96) {128/49(68) - 191/81(113)} mmHg
   RR: 27 (9 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 16 (7 - 21)mmHg
   Total In:
                                                                  4,016 mL
                                                                  2,138 mL
   PO:
   TF:
                                                                  1,268 mL
                                                                    671 mL
   IVF:
                                                                    549 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  5,960 mL
                                                                  2,100 mL
   Urine:
                                                                  4,960 mL
                                                                  1,050 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -1,944 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (445 - 860) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 83
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/45/106/32/7
   Ve: 8.6 L/min
   PaO2 / FiO2: 212
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   51 K/uL
   114 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.0 mEq/L
   16 mg/dL
   110 mEq/L
   147 mEq/L
   26.3 %
   5.7 K/uL
        [image002.jpg]
                             [**2145-1-14**]  01:26 PM
                             [**2145-1-14**]  03:23 PM
                             [**2145-1-14**]  09:24 PM
                             [**2145-1-14**]  10:04 PM
                             [**2145-1-15**]  03:29 AM
                             [**2145-1-15**]  03:46 AM
                             [**2145-1-15**]  01:02 PM
                             [**2145-1-15**]  01:03 PM
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
   WBC
   5.0
   5.5
   5.8
   5.7
   Hct
   28.7
   28.4
   27.7
   26.3
   Plt
   59
   55
   59
   51
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   32
   34
   34
   34
   Glucose
   115
   122
   114
   110
   114
   Other labs: PT / PTT / INR:17.0/47.3/1.5, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:59/138, Alk Phos / T Bili:120/2.4,
   Amylase / Lipase:93/30, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:398 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Microbiology: [**1-7**]: Fusobacterium from blood.
   Assessment and Plan
   Encephalopathy:  MS [**First Name (Titles) 1178**] [**Last Name (Titles) 4414**]g well on lactulose.  Seroquel
   for agitation.  Consider MRI to work up anoxic brain injury
   Respiratory failure:  doing well on Trach mask.
   Acute renal failure:  improved
   HCV cirrhosis:
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2145-01-17 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started seroquel per psych
   - still remained very aggitated, needed to stay on low dose propofol
   - MRI completed yesterday:
   did not show signs of anoxic brain injury
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-14**] 08:00 AM
   Penicillin G potassium - [**2145-1-17**] 03:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-17**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 74 (74 - 102) bpm
   BP: 104/55(70) {104/51(68) - 175/134(129)} mmHg
   RR: 23 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 12 (7 - 16)mmHg
   Total In:
                                                                  3,610 mL
                                                                  1,195 mL
   PO:
   TF:
                                                                  1,312 mL
                                                                    418 mL
   IVF:
                                                                    643 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  4,620 mL
                                                                    370 mL
   Urine:
                                                                  2,720 mL
                                                                    370 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (443 - 507) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 9.9 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), has a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   63 K/uL
   9.3 g/dL
   97 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   15 mg/dL
   112 mEq/L
   146 mEq/L
   27.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2145-1-14**]  03:23 PM
                             [**2145-1-14**]  09:24 PM
                             [**2145-1-14**]  10:04 PM
                             [**2145-1-15**]  03:29 AM
                             [**2145-1-15**]  03:46 AM
                             [**2145-1-15**]  01:02 PM
                             [**2145-1-15**]  01:03 PM
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
                             [**2145-1-17**]  02:55 AM
   WBC
   5.0
   5.5
   5.8
   5.7
   6.0
   Hct
   28.7
   28.4
   27.7
   26.3
   27.6
   Plt
   59
   55
   59
   51
   63
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   34
   Glucose
   115
   122
   114
   110
   114
   97
   Other labs: PT / PTT / INR:17.3/46.8/1.6, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:60/136, Alk Phos / T Bili:129/2.5,
   Amylase / Lipase:38/42, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:341 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   This is a 63 y/o M who has continued AMS to point where not
   communicating at all; with hx Hepatitis C cirrhosis, s/p PEA arrest,
   body cooling and rewarming, with Fusobacterium sepsis covering with IV
   Pen G until [**2145-1-21**].
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.  MRI
   ([**1-16**]) was unremarkable.
   - patient not responding to pain or consistently following commands,
   off propofol sedation, psych saw patient on [**1-15**] and felt that the
   patient was very unlikely to have had NMS and recommended seroquel to
   be used for agitation.
   - d/c propofol (still intermittently using)
   - continue max dose of lactulose and rifaximin
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - bleeding has improved
   - ENT found small bite on back of tongue, but no evidence of posterior
   pharynx bleed
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empiric HAP for 5day with vanc/zosyn starting
   [**1-7**].
    - giving Lasix 40mg IV with goal -2L
   - tolerating trach collar very well
   .
   # Fusobacterium sepsis: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**]. Covered with zosyn until
   sensitivies obtained.
   - surveillance blood cxs NTD
   - complete course of PCN on [**1-21**]
   .
   # Thrombocytopenia
 [**1-1**] platelets 171, slowly declining. Switched
   from H2 to PPI. Considering HIT vs. splenic sequestration
   - f/u smear
   - no current evidence of DIC
   - plts starting to improve slightly after switch from H2 to PPI
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - renal function stable
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   - switching antibiotics to be made with D5W
   - increase free water boluses through G-tube
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: TF running at goal, 60cc/hr
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2145-1-17**] 02:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-17 11:35:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo man with HCV cirrhosis.   s/p PEA arrest post laminectomy, with
   persistently poor MS.  MRI yesterday unremarkable.  Required placement
   back on vent overnight for desaturation for 4 hours, now back on TM.
   24 Hour Events:
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Penicillin G potassium - [**2145-1-17**] 08:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   folate
   thiamine
   vitamin D
   atrovent
   protonix
   levoxyl
   pen G
   lactulose
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Seizure
   Psychiatric / Sleep: Agitated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-1-17**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 81 (73 - 102) bpm
   BP: 145/64(87) {104/51(68) - 175/134(129)} mmHg
   RR: 26 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 11 (7 - 15)mmHg
   Total In:
                                                                  3,610 mL
                                                                  1,732 mL
   PO:
   TF:
                                                                  1,312 mL
                                                                    690 mL
   IVF:
                                                                    643 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  4,620 mL
                                                                    675 mL
   Urine:
                                                                  2,720 mL
                                                                    675 mL
   NG:
   Stool:
                                                                    850 mL
   Drains:
   Balance:
                                                                 -1,010 mL
                                                                  1,057 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 443 (443 - 443) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 71
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   63 K/uL
   97 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   15 mg/dL
   112 mEq/L
   146 mEq/L
   27.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2145-1-14**]  03:23 PM
                             [**2145-1-14**]  09:24 PM
                             [**2145-1-14**]  10:04 PM
                             [**2145-1-15**]  03:29 AM
                             [**2145-1-15**]  03:46 AM
                             [**2145-1-15**]  01:02 PM
                             [**2145-1-15**]  01:03 PM
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
                             [**2145-1-17**]  02:55 AM
   WBC
   5.0
   5.5
   5.8
   5.7
   6.0
   Hct
   28.7
   28.4
   27.7
   26.3
   27.6
   Plt
   59
   55
   59
   51
   63
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   34
   34
   34
   Glucose
   115
   122
   114
   110
   114
   97
   Other labs: PT / PTT / INR:17.3/46.8/1.6, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:60/136, Alk Phos / T Bili:129/2.5,
   Amylase / Lipase:38/42, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:341 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   Poor MS:  still unresponsive.  Moving all extremeties.  Was placed on
   propofol during ventilation overnight.  Will try to limit drip sedation
   and stick ot boluses.
   Fusobacterium sepsis:  continue Pen G until [**1-21**].
   Thrombocytopenia: plts improved today.
   Hypernatremia:  replete free water while diuresing.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2145-1-17**] 10:07 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2145-01-18 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - propofol sedation weaned off
   - seroquel uptitrated -> pt still agitated
   - psych recommended staying away from zyprexa/haldol (?NMS) and adding
   ativan PRN (would like to limit [**12-21**] liver disease)
   - hypernatremia not improving (tried increasing free water flushes to
   500cc q3h) -> called [**Last Name (LF) 4458**], [**First Name3 (LF) 116**] try to mix all meds in D5W
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Penicillin G potassium - [**2145-1-18**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-18**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 92 (73 - 103) bpm
   BP: 153/62(89) {120/53(73) - 175/77(106)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 8 (3 - 36)mmHg
   Total In:
                                                                  3,319 mL
                                                                  1,111 mL
   PO:
   TF:
                                                                  1,109 mL
   IVF:
                                                                    639 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                    550 mL
   Urine:
                                                                  3,630 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,011 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 70%
   SpO2: 99%
   ABG: 7.44/47/127/31/7
   PaO2 / FiO2: 254
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), has a-line
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave
   Neurologic: arousable to voice, opens eyes no purposeful movements,
   withdraws to pain, non-verbal
   Labs / Radiology
   55 K/uL
   9.0 g/dL
   90 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   148 mEq/L
   26.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2145-1-15**]  03:46 AM
                             [**2145-1-15**]  01:02 PM
                             [**2145-1-15**]  01:03 PM
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
                             [**2145-1-17**]  02:55 AM
                             [**2145-1-17**]  04:00 PM
                             [**2145-1-18**]  01:01 AM
                             [**2145-1-18**]  04:22 AM
                             [**2145-1-18**]  05:38 AM
   WBC
   5.8
   5.7
   6.0
   5.0
   Hct
   27.7
   26.3
   27.6
   26.9
   Plt
   59
   51
   63
   55
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   34
   34
   33
   Glucose
   110
   114
   97
   111
   94
   90
   Other labs: PT / PTT / INR:16.2/45.6/1.4, CK / CKMB /
   Troponin-T:447/26/0.24, ALT / AST:60/136, Alk Phos / T Bili:129/2.5,
   Amylase / Lipase:38/42, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:341 IU/L, Ca++:8.9 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   This is a 63 y/o M who has continued AMS to point where not
   communicating at all; with hx Hepatitis C cirrhosis, s/p PEA arrest,
   body cooling and rewarming, with Fusobacterium sepsis covering with IV
   Pen G until [**2145-1-21**].
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.  MRI
   ([**1-16**]) was unremarkable.
   - patient not responding to pain or consistently following commands,
   off propofol sedation, psych saw patient on [**1-15**] and felt that the
   patient was very unlikely to have had NMS and recommended seroquel to
   be used for agitation.
   - d/c propofol (still intermittently using)
   - continue max dose of lactulose and rifaximin
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - bleeding has improved
   - ENT found small bite on back of tongue, but no evidence of posterior
   pharynx bleed
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empiric HAP for 5day with vanc/zosyn starting
   [**1-7**].
    - giving Lasix 40mg IV with goal -2L
   - tolerating trach collar very well
   .
   # Fusobacterium sepsis: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**]. Covered with zosyn until
   sensitivies obtained.
   - surveillance blood cxs NTD
   - complete course of PCN on [**1-21**]
   .
   # Thrombocytopenia
 [**1-1**] platelets 171, slowly declining. Switched
   from H2 to PPI. Considering HIT vs. splenic sequestration
   - f/u smear
   - no current evidence of DIC
   - plts starting to improve slightly after switch from H2 to PPI
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - renal function stable
   - f/u renal and liver recs
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit ~ 2-3L.
   - switching antibiotics to be made with D5W
   - increase free water boluses through G-tube
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - titrate up lactulose
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: After PEA, was initially hemodynamically stable
   but has had episodes of hypotension non-responsive to IVF boluses,
   levofed started, currently off. Echo showed no evidence of cardiogenic
   shock. s/p cooling and rewarming. Trended cardiac enzymes, came down
   and no evidence of cardiogenic shock on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: PIV, Central Line
   .
   # FEN: TF running at goal, 60cc/hr
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-19 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PEA/asystole
   24 Hour Events:
   - Hypernatremia corrected to 143 today. Free water deficit calculated
   to be 3.7 L, getting D5W 500 cc q3hrs.
   - ABG/VBG showing good correlation
   - Made Seroquel around the clock and PRN per psych recs
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Penicillin G potassium - [**2145-1-19**] 04:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-18**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-19**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 87 (78 - 102) bpm
   BP: 120/70(82) {120/70(82) - 120/70(82)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 7 (7 - 16)mmHg
   Total In:
                                                                  5,362 mL
                                                                  1,498 mL
   PO:
   TF:
   IVF:
                                                                  1,057 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                  1,910 mL
   Urine:
                                                                  1,915 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,447 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.41/46/170/27/4
   PaO2 / FiO2: 425 / 40%
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: RRR, (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   No(t) Rub
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:  Clear )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave,
   non-tender
   Neurologic: arousable to voice, opens eyes, non-verbal, follows some
   basic commands
   Labs / Radiology
   59 K/uL
   8.6 g/dL
   85 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   143 mEq/L
   26.1 %
   3.9 K/uL
        [image002.jpg]
                             [**2145-1-16**]  04:28 AM
                             [**2145-1-16**]  04:45 AM
                             [**2145-1-17**]  02:55 AM
                             [**2145-1-17**]  04:00 PM
                             [**2145-1-18**]  01:01 AM
                             [**2145-1-18**]  04:22 AM
                             [**2145-1-18**]  05:38 AM
                             [**2145-1-18**]  02:41 PM
                             [**2145-1-18**]  09:01 PM
                             [**2145-1-19**]  03:15 AM
   WBC
   5.7
   6.0
   5.0
   3.9
   Hct
   26.3
   27.6
   26.9
   26.1
   Plt
   51
   63
   55
   59
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.5
   0.5
   TCO2
   34
   33
   30
   Glucose
   114
   97
   111
   94
   90
   111
   85
   Other labs: PT / PTT / INR:17.4/44.6/1.6, Ca++:8.4 mg/dL, Mg++:1.7
   mg/dL, PO4:2.2 mg/dL; TSH 3.7, T4 5.7; Lactate 1.0, ammonia 31
   CXR [**2145-1-19**]: FINDINGS: In comparison with the study of [**1-15**], the
   monitoring and support devices remain in place. Persistent low lung
   volumes. Opacification at the right base is increasing and the
   hemidiaphragm is not sharply seen. This is consistent with pleural
   effusion and atelectasis, though in the absence of a lateral view. A
   superimposed pneumonia cannot be excluded. The left hemidiaphragm is
   more sharply seen, suggesting some improvement in atelectasis and
   effusion in this region.
   Assessment and Plan
   This is a 63 y/o M who has continued AMS to point where not
   communicating at all; with hx Hepatitis C cirrhosis, s/p PEA arrest,
   body cooling and rewarming, with Fusobacterium sepsis covering with IV
   Pen G until [**2145-1-21**].
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.  MRI
   ([**1-16**]) was unremarkable.  Mental status is somewhat improved today.
   - off propofol sedation,
   - psych saw patient on [**1-15**] and felt that the patient was very unlikely
   to have had NMS and recommended seroquel for agitation (uptitrate per
   Psych recs
 standing Seroquel TID with prns)
   - lactulose increased to 60mg q4hr for stool ouput goal of 1000cc and
   cont rifaximin; ammonia not elevated
   - Thyroid studies wnl
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empiric HAP for 5day with vanc/zosyn starting
   [**1-7**].
   - tolerating trach collar very well
   .
   # Fusobacterium bacteremia: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**].
   - surveillance blood cxs NTD
   - complete course of PCN on [**1-21**]
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - bleeding has improved, tr blood at site, but controlled
   - ENT found small bite on back of tongue, but no evidence of posterior
   pharynx bleed
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit 3.5L on
   [**2145-1-18**] and now corrected again as TF were held overnight except for FW
   boluses..
   - increase free water boluses through G-tube
   - will discuss with nutrition to see if there is a way to decrease
   sodium in TF or dilute TF to prevent hypernatremia
   .
   # Thrombocytopenia
 [**1-1**] platelets 171, slowly declining. Switched
   from H2 to PPI. Considering HIT vs. splenic sequestration
   - no current evidence of DIC
   - plts stable after switch from H2 to PPI
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - renal function stable
   - f/u renal and liver recs
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - lactulose increased
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: Now stable. After PEA, was initially
   hemodynamically stable but has had episodes of hypotension
   non-responsive to IVF boluses, levofed started, currently off. Echo
   showed no evidence of cardiogenic shock. s/p cooling and rewarming.
   Trended cardiac enzymes, came down and no evidence of cardiogenic shock
   on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: Central Line and A-line; will remove A-line today and request
   PICC placement.
   .
   # FEN: were stopped due to patient positioning, will try restarting
   today for goal, 60cc/hr
               Speech/swallow c/s for consideration of passy-muir valve.
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.  [**Month (only) 11**] be able to transition to floor vs.
   rehab soon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Arterial Line - [**2145-1-11**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-20 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NGT replaced after patient pulled it out
 ARTERIAL LINE - STOP [**2145-1-19**] 08:00 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Penicillin G potassium - [**2145-1-20**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-20**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 83 (78 - 109) bpm
   BP: 126/67(80) {98/39(53) - 169/84(94)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 13 (6 - 13)mmHg
   Total In:
                                                                  3,827 mL
                                                                  1,670 mL
   PO:
   TF:
                                                                     77 mL
   IVF:
                                                                    790 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  3,230 mL
                                                                  1,240 mL
   Urine:
                                                                  2,130 mL
                                                                    240 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                    597 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL, opens eyes, makes eye contact
   [**Name (NI) **], Ears, Nose, Throat: [**Name (NI) 4300**], Poor dentition, NG tube, trach
   (Bloody [**1-14**])
   Cardiovascular: RRR, (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   No(t) Rub
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:  Clear )
   Abdominal: Soft, Bowel sounds present, Distended, palpable fluid wave,
   non-tender
   Neurologic: arousable to voice, opens eyes, non-verbal, follows some
   basic commands
   Labs / Radiology
   69 K/uL
   8.5 g/dL
   95 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   112 mEq/L
   144 mEq/L
   25.5 %
   2.9 K/uL
        [image002.jpg]
                             [**2145-1-17**]  02:55 AM
                             [**2145-1-17**]  04:00 PM
                             [**2145-1-18**]  01:01 AM
                             [**2145-1-18**]  04:22 AM
                             [**2145-1-18**]  05:38 AM
                             [**2145-1-18**]  02:41 PM
                             [**2145-1-18**]  09:01 PM
                             [**2145-1-19**]  03:15 AM
                             [**2145-1-19**]  04:16 PM
                             [**2145-1-20**]  05:46 AM
   WBC
   6.0
   5.0
   3.9
   2.9
   Hct
   27.6
   26.9
   26.1
   25.5
   Plt
   63
   55
   59
   69
   Cr
   0.7
   0.7
   0.7
   0.6
   0.5
   0.5
   0.6
   0.6
   TCO2
   33
   30
   Glucose
   97
   111
   94
   90
   111
   85
   109
   95
   Other labs: PT / PTT / INR:17.9/44.4/1.6, CK / CKMB /
   Troponin-T:104/26/0.24, ALT / AST:60/136, Alk Phos / T Bili:129/2.5,
   Amylase / Lipase:38/42, Differential-Neuts:80.0 %, Band:0.0 %,
   Lymph:16.0 %, Mono:0.0 %, Eos:4.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, LDH:341 IU/L, Ca++:8.4 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   This is a 63 y/o M who has continued AMS to point where not
   communicating at all; with hx Hepatitis C cirrhosis, s/p PEA arrest,
   body cooling and rewarming, with Fusobacterium sepsis covering with IV
   Pen G until [**2145-1-21**].
   .
   # Mental Status: With slowly resolving delerium prior to this event,
   and now with unclear hypoxic insult to brain. GCS of [**6-27**] on admission
   to ICU.  Considering head CT to evaluate for anoxic brain injury
   post-cooling.  Neuro eval for possible seizure. EEG neg for seizure,
   severe encephalopathy likely in setting of sedation.  LP done earlier
   that was negative gram stain/culture, no whites, negative HSV PCR. Back
   to pre-code MS per wife. CT scan did not show any focal lesions.  MRI
   ([**1-16**]) was unremarkable.  Mental status is somewhat improved today.
   - off propofol sedation,
   - psych saw patient on [**1-15**] and felt that the patient was very unlikely
   to have had NMS and recommended seroquel for agitation (uptitrate per
   Psych recs
 standing Seroquel TID with prns)
   - lactulose increased to 60mg q4hr for stool ouput goal of 1000cc and
   cont rifaximin; ammonia not elevated
   - Thyroid studies wnl
   .
   # Respiratory/Ventilation: Pt re-intubated [**1-11**] secondary to
   respiratory distress and inability to handle secretions.  Unlikely to
   tolerate extubation given that underlying problem is inability to
   handle secretions which is unlikely to change. CXR from [**1-13**] showed
   evidence of pulmonary edema. Patient getting trach [**1-13**] in OR. Patient
   completed treatment for empiric HAP for 5day with vanc/zosyn starting
   [**1-7**].
   - tolerating trach collar very well
   .
   # Fusobacterium bacteremia: Will treat for two-week course, awaiting
   sensitivities on Fusobacterium -> likely responsive to penicillin. Dx
   on [**1-7**], will need 14d course until [**1-21**].
   - surveillance blood cxs NTD
   - complete course of PCN on [**1-21**]
   .
   # bleeding from trach site- Procedure done [**1-13**], 8-0 Portex .lost
   150cc. Patient was given giving 2u platelets, given 1u FFP after the
   procedure. ENT was consulted on [**1-14**] for concern of posterior pharynx
   bleed, which they did not find any evidence of.
   - bleeding has improved, tr blood at site, but controlled
   - ENT found small bite on back of tongue, but no evidence of posterior
   pharynx bleed
   .
   # Hypernatremia: Likely hypovolemic hypernatremia in the setting of
   recent ATN and current HRS.  Corrected [**1-11**], free water deficit 3.5L on
   [**2145-1-18**] and now corrected again as TF were held overnight except for FW
   boluses..
   - increase free water boluses through G-tube
   - will discuss with nutrition to see if there is a way to decrease
   sodium in TF or dilute TF to prevent hypernatremia
   .
   # Thrombocytopenia
 [**1-1**] platelets 171, slowly declining. Switched
   from H2 to PPI. Considering HIT vs. splenic sequestration
   - no current evidence of DIC
   - plts stable after switch from H2 to PPI
   .
   # Resolved Renal Failure: Unclear etiology, likely combination of ATN
   in the setting of code and HRS.  Renal following given concern for HRS.
   Off albumin, mitodrine and octreotide
   - renal function stable
   - f/u renal and liver recs
   .
   # Cardiac: CE's trended post-arrest. Echo hyperdynamic, no cardiogenic
   shock. CK and Trop trended down
   - will consider repeat echo
   .
   # Cirrhosis: Hep C Cirrhosis, with concern for HRS.
   - pre-code mental status likely related to encephalopathy v. delirium
   - lactulose increased
   - liver recs -> non suitable for tx at this point, in the very small
   chance that pt improves could possibly be candidate in the future
   .
   # s/p Shock/PEA Arrest: Now stable. After PEA, was initially
   hemodynamically stable but has had episodes of hypotension
   non-responsive to IVF boluses, levofed started, currently off. Echo
   showed no evidence of cardiogenic shock. s/p cooling and rewarming.
   Trended cardiac enzymes, came down and no evidence of cardiogenic shock
   on rewarmed echo.
   # Parotid mass. Incidental finding of L parotid mass on MRI, 1.6cm. --
   Will require ENT followup as outpt.
   .
   # Metabolic Acidosis: s/p arrest [**12-21**] to tissue hypoxia.  Lactates now
   normalized, now resolved.
   # Access: Central Line and A-line; will remove A-line today and request
   PICC placement.
   .
   # FEN: were stopped due to patient positioning, will try restarting
   today for goal, 60cc/hr
               Speech/swallow c/s for consideration of passy-muir valve.
   .
   # Prophylaxis: holding HSQ since elevated PTT, PPI
   .
   # Code: full
   .
   # Communication: Wife is HCP -> will readdress long-term goals re:
   long-term prognosis
   .
   # Disposition: ICU for now.  [**Month (only) 11**] be able to transition to floor vs.
   rehab soon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-1-7**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: